US06649642B2
(d) 1-(Benzyl-methyl-amino)-4-phenyl-butan-2-one
2-(Benzyl-methyl-amino)-N-methoxy-N-methyl-acetamide (2.0 g, 9.0 mmol, 1.0 equiv) was dissolved in 30 mL of dry THF under argon. The solution was cooled to −78° C. and a 1 M solution of phenethyl magnesium chloride (12.6 mL, 12.6 mmol, 1.4 equiv) was added dropwise of a period of 1 min. The resulting mixture was stirred at −78° C. for 3 h, warmed to 0° C. for 20 min and recooled to −78° C. at which time the reaction was quenched by the addition of 5 mL of saturated sodium bicarbonate. The reaction solution was diluted with 200 mL of EtOAc and 200 mL of water. The layers were separated and the organic layer was dried over Na2SO4, decanted and concentrated to an oil (2.4 g, ˜100%) which was used without further purification; MS, m/z 268=M+1.

reactant | 2-(Benzyl-methyl-amino)-N-methoxy-N-methyl-acetamide | 9.0 mmol, 2.0 g, 1.0 equiv | C(C1=CC=CC=C1)N(CC(=O)N(C)OC)C | C12H18N2O2
reactant | phenethyl magnesium chloride | 12.6 mmol, 12.6 mL, 1.4 equiv | C(CC1=CC=CC=C1)[Mg]Cl
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(Benzyl-methyl-amino)-4-phenyl-butan-2-one | C(C1=CC=CC=C1)N(CC(CCC1=CC=CC=C1)=O)C | C18H21NO
